US09359381B2
Step 3: 7-(1-(4-Chlorothiazol-2-yl)-3-hydroxy-2,2-dimethylpropyl)-1,3-dimethyl-5-phenyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
Sodium borohydride (46.6 mg, 1.232 mmol) was added to a mixture of methyl 3-(4-chloro thiazol-2-yl)-3-(1,3-dimethyl-2,4-dioxo-5-phenyl-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-7-yl)-2,2-dimethylpropanoate (120 mg, 0.246 mmol) and lithium chloride (52.2 mg, 1.232 mmol) in methanol (10 mL). The mixture was stirred at room temp. for 30 mins. The reaction was quenched with saturated NaHCO3(aq) and extracted with DCM (3×). The combined organic extracts were passed through a hydrophobic frit and evaporated under vacuum to afford the title compound.

reactant | Sodium borohydride | 1.232 mmol, 46.6 mg | [BH4-].[Na+]
reactant | methyl 3-(4-chloro thiazol-2-yl)-3-(1,3-dimethyl-2,4-dioxo-5-phenyl-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-7-yl)-2,2-dimethylpropanoate | 0.246 mmol, 120 mg | ClC=1N=C(SC1)C(C(C(=O)OC)(C)C)C=1NC(=C2C1N(C(N(C2=O)C)=O)C)C2=CC=CC=C2 | C23H23ClN4O4S
reactant | lithium chloride | 1.232 mmol, 52.2 mg | [Cl-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
product | 7-(1-(4-Chlorothiazol-2-yl)-3-hydroxy-2,2-dimethylpropyl)-1,3-dimethyl-5-phenyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | ClC=1N=C(SC1)C(C(CO)(C)C)C=1NC(=C2C1N(C(N(C2=O)C)=O)C)C2=CC=CC=C2 | C22H23ClN4O3S
